datasets/10k__Tet_Int.csv
SMILES Labelled
"CC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CC.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CC 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S]C(C)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21][H])CC)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CC)CC.[O-:21][H] 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[S]C(CC)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[OH:21][CH:20]2(C)C3=C(C(C([NH+:10]2(C))C)O)C=CC=C3>>[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20](C)=[OH+:21])O)C  21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)[H])[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)[H])[H] 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(C)C([H])=C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)/C([H])=C([H])\C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])O[H])CC)C>>C(C([O-:21])[H])(C(O[C:20](=[O:10])O[H])CC)C 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[H][O:10]C([H])C(C)C([H])[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[H][NH:10]C([H])C(CC)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])C)C1=CC=CC=C1)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)[H])C)C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[OH:21][C:20]1([H])C(C)C(C)=C(C)C(C)[OH+:10]1>>[OH:10]C(C)/C(C)=C(C)\C(C)[C:20]([H])=[OH+:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H])CC>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CC.[O-:21][H] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C)[O][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[O]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[S][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C([H])[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]C)([O]C)[NH]C.[Cl-]>>[Cl-].CC[NH:10][H].C[NH+:21]=[C:20]([O]C)[NH]C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[S]2.[H][O:10][H] 21=20;20,10=10"
"[H][S+:10](C(C)C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(CC)[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[OH:10]C([H])C(C)C([C:20]([H])=[OH+:21])C>>[OH:21][C:20]1([H])[OH+:10]C([H])C(C)C1C 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]CC 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[OH:21][C:20]1(C)C(C)C([H])C(C)C(C)[OH+:10]1>>[OH:10]C(C)C(C)C([H])C(C)[C:20](C)=[OH+:21] 21=20;20,10=10"
"[OH:10]C(CCC)C(O)C([C:20](C)=[OH+:21])[H]>>[OH:21][C:20]1(C)[OH+:10]C(CCC)C(O)C1[H] 10=20;20,21=21"
"[H][O:10]C(CC)C([H])[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[H][O+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"CCC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H]>>CCC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H].[O-:21][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
